US08624040B2
Step 1: methyl 5-pivaloyl-5,6-dihydro-4H-thieno[2,3-c]pyrrole-2-carboxylate
To a mixture of methyl 5,6-dihydro-4H-thieno[2,3-c]pyrrole-2-carboxylate (0.023 g, 0.127 mmol) and pivalic acid (0.014 g, 0.14 mmol) in methylene chloride (0.92 mL) was added N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.055 g, 0.146 mmol) and N-methylmorpholine (0.035 mL, 0.32 mmol) respectively. The reaction mixture was stirred at room temperature overnight. The reaction was diluted with additional DCM (2 mL) and washed with saturated aqueous NaHCO3 (2 mL). The aqueous layer was extracted with additional DCM (3 mL), and the combined organic layers were concentrated to afford an oily residue. LCMS (FA) ES+ 268.

reactant | methyl 5,6-dihydro-4H-thieno[2,3-c]pyrrole-2-carboxylate | 0.127 mmol, 0.023 g | S1C(=CC2=C1CNC2)C(=O)OC | C8H9NO2S
reactant | pivalic acid | 0.14 mmol, 0.014 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.146 mmol, 0.055 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N-methylmorpholine | 0.32 mmol, 0.035 mL | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 0.92 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-pivaloyl-5,6-dihydro-4H-thieno[2,3-c]pyrrole-2-carboxylate | C(C(C)(C)C)(=O)N1CC2=C(C1)C=C(S2)C(=O)OC | C13H17NO3S
